US05859007
N-tert-Butyl-2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl-acetamide
263 mg (0.392 mmol) 3-[1-(tert-Butyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylmethyl]-indazole-1-carboxylic acid tert-butyl ester, prepared as in Intermediate 65, is dissolved in 3 mL 4N HCl in Dioxane and stirred 1 h at ambient temperature. The solvent is removed in vacuo and the residue taken into EtOAc (50 mL), washed with satd. NaHCO3 (30 mL) and brine (30 mL), dried (MgSO4), filtered and concentrated in vacuo. The crude product is purified by flash chromatography on 5 g silica gel eluted successively with EtOAc/Hexanes (1:2, 50 mL), (2:3, 80 mL), (1:1, 50 mL). Appropriate fractions were combined and concentrated in vacuo to give 65 mg (0.113 mmol) of the title compound as a white foam: 1H NMR (CDCl3, 300 MHz) δ7.82 (d, 1H, J=7.5), 7.43-7.06 (m, 16H), 4.19 (m, 2H), 4.08 (m, 1H), 3.79 (m, 1H), 3.63 (m, 1H), 1.37 (s, 9H); low resolution MS (FAB) m/e 572.2 (MH+); TLC Rf =0.41 (EtOAc/Hexanes, 3:2).

reactant | 3-[1-(tert-Butyl-phenyl-carbamoylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylmethyl]-indazole-1-carboxylic acid tert-butyl ester | 0.392 mmol, 263 mg | C(C)(C)(C)OC(=O)N1N=C(C2=CC=CC=C12)CC1C(N(C2=C(N(C1=O)C(C(N)=O)(C1=CC=CC=C1)C(C)(C)C)C=CC=C2)C2=CC=CC=C2)=O | C40H41N5O5
solvent | HCl | 4N, 3 mL | Cl | ClH
solvent | Dioxane | O1CCOCC1 | C4H8O2
product | N-tert-Butyl-2-[3-(1H-indazol-3-ylmethyl)-2,4-dioxo-5-phenyl-2,3,4,5,tetrahydro-benzo[b][1,4]diazepin-1-yl]-N-phenyl-acetamide | 0.113 mmol, 65 mg | C(C)(C)(C)N(C(CN1C2=C(N(C(C(C1=O)CC1=NNC3=CC=CC=C13)=O)C1=CC=CC=C1)C=CC=C2)=O)C2=CC=CC=C2 | C35H33N5O3
